US08222416B2
To a mixture of toluene-4-sulfonic acid-1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester (1.5 g, 2.78 mmol), [4-(tert-butylaminocarbonyl)phenyl]boronic acid (1.3 g, 5.56 mmol) and dichlorobis(triphenylphosphine)palladium (II) (195 mg, 0.28 mmol) in dioxane (8 mL) was added an aqueous sodium carbonate solution (2 M, 3.5 mL, 7 mmol). The resulting mixture was subjected to microwave irradiation for 2 h at 100° C. The mixture was diluted with ethyl acetate (250 mL), washed with a saturated aqueous sodium bicarbonate solution (2×50 mL), brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 20% ethyl acetate/hexanes) afforded 4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-N-tert-butyl-benzamide (1.2 g, 79.5%) as a light yellow solid: LC/MS m/e calcd for C31H32FN3O3S [M+H]+ 546.69, observed 546.1.

reactant | toluene-4-sulfonic acid-1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester | 2.78 mmol, 1.5 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C27H25FN2O5S2
reactant | [4-(tert-butylaminocarbonyl)phenyl]boronic acid | 5.56 mmol, 1.3 g | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)B(O)O | C11H16BNO3
reactant | sodium carbonate | 7 mmol, 2 M, 3.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.28 mmol, 195 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-N-tert-butyl-benzamide | 1.2 g, 79.5% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCCC2)C2=CC=C(C(=O)NC(C)(C)C)C=C2 | C31H32FN3O3S
